US06608078B2
1-Benzyl-3-ethyl-piperidin-4-one (33 g, 152.0 mmole) was added to the stirred suspension of sodium hydride (9.5 g, 200.0 mmole) in tetrahydrofuran (300 ml) at 32° C. and stirring was continued for 1 hr. Methyl iodide (30 ml, 490.0 mmole) in dry tetrahydrofuran (100 ml) was added it at 0-5° C. The resulting mixture stirred at room temperature for 4 hr, water (100 ml) and ethyl acetate (800 ml) were added respectively. Organic layer was separated, dried (Na2SO4) and concentrated to give crude product, which was purified through column chromatography. Elute from 10% ethyl acetate in hexane afforded 1-benzyl-3,5-dimethyl-3-ethylpiperidin-4-one. Yield 22.0 g (59%), C16H23NO, m/z 246 (M+1).

reactant | 1-Benzyl-3-ethyl-piperidin-4-one | 152.0 mmole, 33 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CC | C14H19NO
reactant | sodium hydride | 200.0 mmole, 9.5 g | [H-].[Na+]
reactant | Methyl iodide | 490.0 mmole, 30 ml | CI | CH3I
reactant | water | 100 ml | O | H2O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3,5-dimethyl-3-ethylpiperidin-4-one | C(C1=CC=CC=C1)N1CC(C(C(C1)C)=O)(CC)C | C16H23NO
